US07479536B1
To a cooled, stirred solution of 2-aminoethanol (5.9 ml, 0.098 mol) and sodium hydroxide (3.6 g, 0.098 mol) in water-dioxane (1:1), was added drop-wise Boc-azide (10 ml, 0.081 mol). The reaction was stirred at room temperature overnight. The dioxane was then removed under vacuum, and the water layer extracted several times with ethyl acetate. The organic layer was dried over sodium sulphate and then, evaporated to dryness under vacuum to get the product (N-Boc)-2-aminoethanol (5.37 g, 41% yield), which was used in further steps without purification.

reactant | 2-aminoethanol | 0.098 mol, 5.9 ml | NCCO | C2H7NO
reactant | sodium hydroxide | 0.098 mol, 3.6 g | [OH-].[Na+]
reactant | Boc-azide | 0.081 mol, 10 ml | C(=O)(OC(C)(C)C)N=[N+]=[N-] | C5H9N3O2
solvent | water dioxane | O.O1CCOCC1
product | (N-Boc)-2-aminoethanol | 5.37 g, 41% yield | C(=O)(OC(C)(C)C)NCCO | C7H15NO3
